US06127396
Step 1: Diethyl (1-oxo-1,2,3,4-tetrahydro-2-naphthyl)phosphonate
A solution of α-tetralone (10 g, 68 mmol) in anhydrous THF (120 ml) is added dropwise to 1M lithium diisopropylamide solution (75 .mol, 75 ml) stirred at -65° C. under nitrogen. After stirring for 45 minutes, diethyl chlorophosphate (12.90 g, 75 mmol) is added to the enolate formed and the temperature of the mixture is progressively raised to 0° C. over a period of 50 minutes. After cooling to -70° C., the mixture is transferred to 2M lithium diisopropylamide solution (150 mmol, 75 ml). The solution obtained is stirred for 2 hours at 10° C. and then treated with acetic acid (272 mmol, 15.5 ml) in ether (250 ml). The mixture is filtered and the filtrate is concentrated. The title compound is obtained by purification on a flash column (eluant: cyclohexane/EtOAc=60/40).

reactant | α-tetralone | 68 mmol, 10 g | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | lithium diisopropylamide | 1M, 75 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | diethyl chlorophosphate | 75 mmol, 12.90 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | lithium diisopropylamide | 150 mmol, 2M, 75 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | acetic acid | 272 mmol, 15.5 ml | C(C)(=O)O | C2H4O2
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | ether | 250 ml | CCOCC | C4H10O
product | Diethyl (1-oxo-1,2,3,4-tetrahydro-2-naphthyl)phosphonate | O=C1C(CCC2=CC=CC=C12)P(OCC)(OCC)=O | C14H19O4P
